US05486534
1-Ethyl-4-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]-5-(trifluoromethyl)-1H-pyrazole (0.45 g, 1.0 mmol) was dissolved in 5 mL dry THF under nitrogen and treated with 0.9 mL of a 1.0M solution of n-butyl magnesium chloride in THF at 0° C. for 10 minutes and warmed to 25° C. for 30 minutes. A solution of triethylborane in THF (2.5 mL, 1.0M) was added and the mixture was stirred at 25° C. for 2 hours and at reflux for 24 hours. After cooling to 25° C., a mixture of water (1.2 mL), sodium acetate (0.90 g) and hydroxylamine-O-sulfonic acid (0.62 g) was added and the reaction stirred at 25° C. for 18 hours. The mixture was partitioned between water and ethyl acetate, and the organic layer washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. Chromatographic purification on silica gel eluting with methyl t-butyl ether/toluene (5/95) gave 4-[1-ethyl-4-(4-fluorophenyl)-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzenesulfonamide as a white solid (0.25 g, 62% yield). Elemental analysis for C18H15N3F4SO2Calc'd: C, 52.30, H, 3.66, N, 10.16, S, 7.76. Found: C, 52.36, H, 3.72, N, 9.98, S, 7.90.

reactant | 1-Ethyl-4-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]-5-(trifluoromethyl)-1H-pyrazole | 1.0 mmol, 0.45 g | C(C)N1N=C(C(=C1C(F)(F)F)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C19H16F4N2O2S
reactant | n-butyl magnesium chloride | C(CCC)[Mg]Cl
reactant | triethylborane | C(C)B(CC)CC | C6H15B
reactant | sodium acetate | 0.90 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine-O-sulfonic acid | 0.62 g | NOS(=O)(=O)O | H3NO4S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0M, 2.5 mL | C1CCOC1 | C4H8O
solvent | water | 1.2 mL | O | H2O
product | 4-[1-ethyl-4-(4-fluorophenyl)-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzenesulfonamide | 0.25 g, 62% yield | C(C)N1N=C(C(=C1C(F)(F)F)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)N | C18H15F4N3O2S
